US04211867
4-Tolylthiourea (33.2 g., 0.2 mole) in 200 ml. acetone is heated under reflux for 3 hrs. with methyliodide (31.4 g., 0.221 mole). Solvent is removed in vacuo and the resulting 2-methyl-1-(4-tolyl)-2-thiopseudourea hydroiodide dissolved in 200 ml. tert-butanol. Pyrrolidine (28.4 g., 0.4 mole) is added and the mixture heated at reflux for 18 hrs. The reaction mixture is cooled, diluted with ether and the resulting solid separated. Recrystallization from acetone-ether affords N-(4-tolyl)-1-pyrrolidinecarboximidamide hydroiodide, m.p. 166°-168° C. Conventional treatment of the salt in CH2Cl2 with aqueous (10-20%) NaOH affords the corresponding free base.

reactant | 4-Tolylthiourea | 0.2 mole, 33.2 g | C1(=CC=C(C=C1)NC(=S)N)C | C8H10N2S
reactant | acetone | CC(=O)C | C3H6O
reactant | methyliodide | 0.221 mole, 31.4 g | CI | CH3I
reactant | Pyrrolidine | 0.4 mole, 28.4 g | N1CCCC1 | C4H9N
solvent | ether | CCOCC | C4H10O
product | N-(4-tolyl)-1-pyrrolidinecarboximidamide hydroiodide | I.C1(=CC=C(C=C1)NC(=N)N1CCCC1)C | InChI=1S/C12H17N3.HI/c1-10-4-6-11(7-5-10)14-12(13)15-8-2-3-9-15;/h4-7H,2-3,8-9H2,1H3,(H2,13,14);1H
